US07179823B1
Lithium aluminium hydride (2.53 g) was added to a solution of methyl 1-(4-benzyloxybenzyl)-4-phenylpyrrole-3-carboxylate (21.52 g) in tetrahydrofuran (100 ml) at 0° C., and the mixture was stirred at room temperature for one hour. Sodium sulfate decahydrate (30.00 g) and hexane (100 ml) were added to the reaction mixture and the mixture was stirred at room temperature for one hour. After the precipitate was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and [1-(4-benzyloxybenzyl)-4-phenyl-3-pyrrolyl]methanol (19.68 g, yield: 98%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 122–123° C.

reactant | Lithium aluminium hydride | 2.53 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1-(4-benzyloxybenzyl)-4-phenylpyrrole-3-carboxylate | 21.52 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)C(=O)OC)C=C1 | C26H23NO3
reactant | Sodium sulfate decahydrate | 30.00 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | [1-(4-benzyloxybenzyl)-4-phenyl-3-pyrrolyl]methanol | 19.68 g, yield: 98% | C(C1=CC=CC=C1)OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CO)C=C1 | C25H23NO2
